US06444661B1
In a typical preparation, 50 mg of Rh(III) starting material was dissolved in 32 mL of MeCN/water, 3:1, 0.1 M in NaOH. To this mixture was added 1 equiv or more of 9,10-phenanthrenequinone (to produce non-hindered control DNA photocleaving compounds or 5,6-chrysenequinone (to produce hindered intercalating compounds). During constant stirring, the reaction was allowed to progress for approximately 18 h at room temperature. After neutralization with dilute hydrochloric acid and addition of 500 mL of water, the reaction mixture was loaded onto a Sephadex SP-C25 ion exchange column equilibrated in 0.05 M MgCl2. The product was purified by elution with a gradient of 0.05-0.5 M MgCl2, and the orange product bands were collected. The fractions were concentrated on a Waters Sep-Pak 5g C18 cartridge and washed with copious amounts of water. The metal complex was eluted from the cartridge with a minimum volume of 0.1% TFA in MeCN/water, 1:1, and lyophilized to dryness.

reactant | 9,10-phenanthrenequinone | 1 equiv or more | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
solvent | MeCN water | 32 mL | CC#N.O
solvent | NaOH | [OH-].[Na+]
product | 5,6-chrysenequinone | C1=CC=CC2=C3C(C(C4=CC=CC=C4C3=CC=C12)=O)=O | C18H10O2
